US07247645B2
Synthesis of (3,3-diphenylpropane-1-yl)5-(azepane-1-carbonyl)-4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylate
152 mg (0.303 mmol) of mono(3,3-diphenylpropane-1-yl)4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate and 45.0 mg (0.454 mmol) of hexamethyleneimine were dissolved in 20 ml of dichloromethane. 87.1 mg (0.454 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 46.4 mg (0.303 mmol) of 1-hydroxybenzotriazole were added to the obtained solution, and they were stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and then washed with saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to obtain the title compound.

reactant | mono(3,3-diphenylpropane-1-yl)4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.303 mmol, 152 mg | C1(=CC=CC=C1)C(CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)[O-])C)C)C1=CC=CC=C1
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.454 mmol, 87.1 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.303 mmol, 46.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (3,3-diphenylpropane-1-yl)5-(azepane-1-carbonyl)-4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylate | C1(=CC=CC=C1)C(CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)N1CCCCCC1)C)C)C1=CC=CC=C1 | C36H39ClN2O3
